US04772614
Iodomethane (11.6 ml) was added to a stirred suspension of 7-fluoro-4-hydroxyquinoline (25 g) and anhydrous potassium carbonate (21.7 g) in dimethylformamide (120 ml) and stirring was continued for 15 hours at room temperature. Further quantities of iodomethane (5.8 ml) and anhydrous potassium carbonate (10.85 g) were added and the mixture stirred for a further 2.5 hours at 40°. The mixture was then cooled to room temperature and poured into water (750 ml). The solid product was collected and crystallised from water to give 7-fluoro-1-methyl-4-quinolone, m.p. 146°-149°.

reactant | Iodomethane | 11.6 ml | IC | CH3I
reactant | 7-fluoro-4-hydroxyquinoline | 25 g | FC1=CC=C2C(=CC=NC2=C1)O | C9H6FNO
reactant | potassium carbonate | 21.7 g | C([O-])([O-])=O.[K+].[K+]
reactant | iodomethane | 5.8 ml | IC | CH3I
reactant | potassium carbonate | 10.85 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 750 ml | O | H2O
solvent | dimethylformamide | 120 ml | CN(C=O)C | C3H7NO
product | 7-fluoro-1-methyl-4-quinolone | FC1=CC=C2C(C=CN(C2=C1)C)=O | C10H8FNO
